US04960787
A solution of 2,6-dimethylaniline (60.5 g), glacial acetic acid (600 ml) and 2,5-dimethoxytetrahydrofuran (572 g) is refluxed for 5 hours. The solvent is evaporated at 60° and reduced pressure to give 1-(2,6-dimethylphenyl)-1H-pyrrole as an oil.

reactant | 2,6-dimethylaniline | 60.5 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | 2,5-dimethoxytetrahydrofuran | 572 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 1-(2,6-dimethylphenyl)-1H-pyrrole | CC1=C(C(=CC=C1)C)N1C=CC=C1 | C12H13N
